US08222248B2
A solution of 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid (107.5 mg), 3-chlorophenethylamine (54.5 mg), BOP (186 mg) and DIEA (0.091 mL) in DMF (1 mL) was stirred at room temperature for 60 h. Then 1N NaOH aqueous solution was added. The aqueous layer was extracted with EtOAc, and the organic extracts were dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (SiO2, EtOAc:Hexane=20:80 to 80:10) and prep-HPLC later to give 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid [2-(3-chloro-phenyl)-ethyl]-amide: MS (m/z) 446 (M+1).

reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid | 107.5 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)O | C14H8Cl2N2O2
reactant | 3-chlorophenethylamine | 54.5 mg | ClC=1C=C(CCN)C=CC1 | C8H10ClN
reactant | BOP | 186 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIEA | 0.091 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | 1N | [OH-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid [2-(3-chloro-phenyl)-ethyl]-amide | ClC=1C=C(C=CC1)CCNC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C=C1 | C22H16Cl3N3O
